US06069157
5-Amino-3-cyano-4-(3,4-dibromoisoxazol-5-yl)-1-(2,6-dichloro-4-trifluoromethylphenyl)pyrazole
To a solution of 5-amino-4-(3-bromoisoxazol-5-yl)-3-cyano-1-(2,6-dichloro-4-trifluoromethylphenyl)pyrazole (0.05 g) in acetonitrile (6 ml) was added N-bromosuccinimide (0.02 g). The mixture was left at room temperature for 24 hours during which time a precipitate formed which was isolated by filtration. Washing with methanol, followed by drying, afforded the title compound as a white solid, m.p. 279° C.

reactant | 5-amino-4-(3-bromoisoxazol-5-yl)-3-cyano-1-(2,6-dichloro-4-trifluoromethylphenyl)pyrazole | 0.05 g | NC1=C(C(=NN1C1=C(C=C(C=C1Cl)C(F)(F)F)Cl)C#N)C1=CC(=NO1)Br | C14H5BrCl2F3N5O
reactant | N-bromosuccinimide | 0.02 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | acetonitrile | 6 ml | C(C)#N | C2H3N
product | 5-Amino-3-cyano-4-(3,4-dibromoisoxazol-5-yl)-1-(2,6-dichloro-4-trifluoromethylphenyl)pyrazole | NC1=C(C(=NN1C1=C(C=C(C=C1Cl)C(F)(F)F)Cl)C#N)C1=C(C(=NO1)Br)Br | C14H4Br2Cl2F3N5O
